US09233946B2
5-Isoxazol-3-yl-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide
The product was prepared according to General Procedure 1, described in Example 1, with 5-isoxazol-3-ylthiophene-2-sulfonyl chloride (13.7 mg, 0.055 mmol) and 5-(3-aminophenyl)tetrazole (8.0 mg, 0.050 mmol) and with a slightly modified purification method using 0.1% TFA in water as buffet. The title compound was obtained in 54% yield (11.1 mg). MS (ESI+) calcd mass for C14H10N6O3S2 374.025580, found 374.025400.

reactant | 5-isoxazol-3-ylthiophene-2-sulfonyl chloride | 0.055 mmol, 13.7 mg | O1N=C(C=C1)C1=CC=C(S1)S(=O)(=O)Cl | C7H4ClNO3S2
reactant | 5-(3-aminophenyl)tetrazole | 0.050 mmol, 8.0 mg | NC=1C=C(C=CC1)C1=NN=NN1 | C7H7N5
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | water | O | H2O
product | 5-Isoxazol-3-yl-N-[3-(1H-tetrazol-5-yl)phenyl]thiophene-2-sulfonamide | 54% yield | O1N=C(C=C1)C1=CC=C(S1)S(=O)(=O)NC1=CC(=CC=C1)C1=NN=NN1 | C14H10N6O3S2
